US04530922
Preparation of Chloromethyl(4-fluorophenyl)divinylsilane
To a solution of 6.3 ml (0.050 mol) of chloromethyltrichlorosilane in 75 ml of tetrahydrofuran cooled to -15° C. was added 25 ml of a 2.0 molar solution of p-fluorophenylmagnesium bromide (0.050 mol) at a rate that held the temperature below 0° C. The resulting suspension was stirred 30 minutes at 0° C. then allowed to warm to room temperature over 1 hour. A solution of vinylmagnesium bromide (71 ml, 1.4 molar in tetrahydrofuran) was then added, keeping the temperature below 35° C. The mixture was stirred 2 hours, then washed with saturated ammonium chloride. The aqueous layer was washed with ether-hexanes, and the combined organic layers were washed with brine, dried over sodium sulfate and evaporated. Kugelrohr distillation gave 7.25 g of the title compound as a colorless oil: nmr (CDCl3) 3.1 (2H, s), 5.8-6.7 (6H, m), 7.1, 7.7 (4H, two approximate t); ir (neat) 3060, 2955, 1590, 1497, 1402, 1232, 1162, 1105, 1006, 960, 821, 768 cm-1.

reactant | chloromethyltrichlorosilane | 0.050 mol, 6.3 ml | ClC[Si](Cl)(Cl)Cl | CH2Cl4Si
reactant | p-fluorophenylmagnesium bromide | 0.050 mol | FC1=CC=C(C=C1)[Mg]Br
reactant | vinylmagnesium bromide | 1.4 molar, 71 ml | C(=C)[Mg]Br
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Chloromethyl(4-fluorophenyl)divinylsilane | 7.25 g | ClC[Si](C=C)(C=C)C1=CC=C(C=C1)F | C11H12ClFSi
